US07199147B2
1-[2-(1H-indazol-5-yloxy)phenyl]-N,N-dimethylmethanamine was dissolved in diethyl ether (2 ml), and a 1N-hydrochloric acid/diethyl ether solution (0.3 ml) was added dropwise thereto at 0° C. The resulting suspension was concentrated to obtain 1-[2-(1H-indazol-5-yloxy)phenyl]-N,N-dimethylmethanamine monohydrochloride (20 mg).

reactant | 1-[2-(1H-indazol-5-yloxy)phenyl]-N,N-dimethylmethanamine | N1N=CC2=CC(=CC=C12)OC1=C(C=CC=C1)CN(C)C | C16H17N3O
reactant | hydrochloric acid diethyl ether | 0.3 ml | Cl.C(C)OCC
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
product | 1-[2-(1H-indazol-5-yloxy)phenyl]-N,N-dimethylmethanamine monohydrochloride | 20 mg | Cl.N1N=CC2=CC(=CC=C12)OC1=C(C=CC=C1)CN(C)C | InChI=1S/C16H17N3O.ClH/c1-19(2)11-12-5-3-4-6-16(12)20-14-7-8-15-13(9-14)10-17-18-15;/h3-10H,11H2,1-2H3,(H,17,18);1H
